US06417212B1
A. 2-(4-Benzyloxy-2-bromo-phenoxy)-2-methyl-propionic acid ethyl ester
A mixture of 4-benzyloxy-2-bromo-phenol (9.37 g, 33.6 mmol) and Cs2CO3 (21.9 g, 67.2 mmol) in DMF (80 mL) was treated with ethyl bromoisobutyrate (15 mL, 100 mmol) and heated at 55° C. for 18 h. The reaction mixture was cooled and partitioned between ethyl acetate (250 mL) and H2O (100 mL). The organic layer was washed with brine (75 mL), dried (Na2SO4), and concentrated. The crude product was purified by flash chromatography using CH2Cl2:hexanes (2:3 to 3:2) to give a pale yellow oil (4.58 g, 35%): 1H NMR (400 MHz, CDCl3) δ1.29 (t, 3H, J=7.1 Hz), 1.57 (s, 6H), 4.25 (q, 2H, J=7.1 Hz), 4.98 (s, 2H), 6.79 (dd, 1H, J=3.2, 9.1 Hz), 6.89 (d, 1H, J=8.8 Hz), 7.17 (d, 1H, J=3.4 Hz), 7.32-7.40 (m, 5H); MS (ES) m/e # [M+1].

reactant | 4-benzyloxy-2-bromo-phenol | 33.6 mmol, 9.37 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)O)Br | C13H11BrO2
reactant | Cs2CO3 | 67.2 mmol, 21.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl bromoisobutyrate | 100 mmol, 15 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-(4-Benzyloxy-2-bromo-phenoxy)-2-methyl-propionic acid ethyl ester | 4.58 g, 35% | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)Br)=O | C19H21BrO4
